US06136831
The procedure of Example 9 was repeated using 1-(6-chlorobenzothiazol-2-yl)-4,4-difluorobutane-1,3-dione and 4-sulfamoylphenylhydrazine hydrochloride as the starting materials to obtain 4-[5-(6-chlorobenzothiazol-2-yl)-3-difluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide. NMR(DMSO-d6) δ: 7.23 (1H, t, J=54.1 Hz), 7.56 (2H, bs), 7.57 (1H , s), 7.56-7.60 (1H, m), 7.76-7.80 (2H, m), 7.93-7.97 (3H, m), 8.36 (1H, d, J=2.3 Hz); mp 242-244° C. (toluene)

reactant | 1-(6-chlorobenzothiazol-2-yl)-4,4-difluorobutane-1,3-dione | ClC1=CC2=C(N=C(S2)C(CC(C(F)F)=O)=O)C=C1 | C11H6ClF2NO2S
reactant | 4-sulfamoylphenylhydrazine hydrochloride | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 4-[5-(6-chlorobenzothiazol-2-yl)-3-difluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide | ClC1=CC2=C(N=C(S2)C2=CC(=NN2C2=CC=C(C=C2)S(=O)(=O)N)C(F)F)C=C1 | C17H11ClF2N4O2S2
